US07253158B2
rac-4-Chloro-N-(5,5-dimethyl-2-oxo-azepan-3-yl)-N-[4-(2H-tetrazol-5-yl)-benzyl]-benzenesulfonamide
Rac-4-Chloro-N-(4-cyano-benzyl)-N-(5,5-dimethyl-2-oxo-azepan-3-yl)-benzenesulfonamide (80 mg, 0.18 mmol) was dissolved in dimethylformamide (1 ml). Then ammonium chloride (11 mg, 0.2 mmol) and sodium azide (13 mg, 0.2 mmol) was added and the mixture was stirred overnight at 120° C. After cooling the mixture was distributed 3 times between ethyl acetate (10 ml) and hydrochloric acid (10 ml 1N). The combined organic layers were dried and evaporated. The residue was purified on silica gel (eluent hexane/ethyl acetate) to yield 79 mg (89%). MS: m/e=506.1 (M+NH4+).

reactant | Rac-4-Chloro-N-(4-cyano-benzyl)-N-(5,5-dimethyl-2-oxo-azepan-3-yl)-benzenesulfonamide | 0.18 mmol, 80 mg | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCC(C1)(C)C)=O)CC1=CC=C(C=C1)C#N | C22H24ClN3O3S
reactant | ammonium chloride | 0.2 mmol, 11 mg | [Cl-].[NH4+]
reactant | sodium azide | 0.2 mmol, 13 mg | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | rac-4-Chloro-N-(5,5-dimethyl-2-oxo-azepan-3-yl)-N-[4-(2H-tetrazol-5-yl)-benzyl]-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)C=1N=NNN1)C1C(NCCC(C1)(C)C)=O | C22H25ClN6O3S
